US03953430
Preparation of 5,10-Dihydro-5-(2-dimethylaminoethyl)-10-methyl-6H-pyrido[3,2-b]thieno[3,4-e] [1,4]diazepin-6-one
A mixture of 0.20 g. of 55% sodium hydride-mineral oil dispersion and 0.3 g. of dimethylaminoethylchloride hydrochloride in 12 ml. of dry dimethylformamide is stirred at room temperature for 0.5 hours. To the mixture is added 0.23 g. of 5,10-dihydro-10-methyl-6H-pyrido[3,2-b]thieno[3,4-e] [1,4]diazepin-6-one and stirring is continued for 18 hours. The reaction mixture is cooled, quenched with water and extracted with chloro form. The dried chloroform extracts are concentrated to give an amber oil, which is crystallized from hexane to give an off-white solid, m.p. 129°-130°C.

reactant | sodium hydride | [H-].[Na+]
reactant | dimethylaminoethylchloride hydrochloride | Cl.CN(C)CCCl
reactant | 5,10-dihydro-10-methyl-6H-pyrido[3,2-b]thieno[3,4-e] [1,4]diazepin-6-one | CN1C2=C(NC(C=3C1=CSC3)=O)C=CC=N2 | C11H9N3OS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,10-Dihydro-5-(2-dimethylaminoethyl)-10-methyl-6H-pyrido[3,2-b]thieno[3,4-e] [1,4]diazepin-6-one | CN(CCN1C2=C(N(C=3C(C1=O)=CSC3)C)N=CC=C2)C | C15H18N4OS
